US04382939
1,2,3,4-Tetrahydro-8-hydroxy-3-(phenylmethyl)5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from resorcinol (22 g, 0.2 moles) and 1-benzyl-3-carbethoxy-4-piperidone hydrochloride (59.6 g, 0.2 moles). The product (55 g) is converted to 1,2,3,4-tetrahydro-3-(phenylmethyl)-8-[(1-phenyl-1H-tetrazol-5-yl)oxy]-5H-[1]benzopyrano [3,4-c]pyridin-5-one without further purification.

reactant | resorcinol | 0.2 moles, 22 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 1-benzyl-3-carbethoxy-4-piperidone hydrochloride | 0.2 moles, 59.6 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
product | 1,2,3,4-Tetrahydro-8-hydroxy-3-(phenylmethyl)5H-[1]benzopyrano[3,4-c]pyridin-5-one | OC1=CC2=C(C=C1)C1=C(CN(CC1)CC1=CC=CC=C1)C(O2)=O | C19H17NO3
